.suckt  2stage_pmos_input ibias in1 in2 out source_nmos source_pmos
M1 net_0 in1 net_1 net_1 pmos W=63e-6 L=1e-6
M2 outfirststage in2 net_1 net_1 pmos W=63e-6 L=1e-6
M3 net_2 net_0 source_pmos source_pmos pmos W=1e-6 L=6e-6
M4 net_0 bias_p_3 net_2 net_2 pmos W=1e-6 L=6e-6
M5 net_4 net_0 source_pmos source_pmos pmos W=1e-6 L=6e-6
M6 outfirststage bias_p_3 net_4 net_4 pmos W=1e-6 L=6e-6
M7 net_5 bias_n_1b source_nmos source_nmos nmos W=1e-6 L=6e-6
M8 net_0 ibias net_5 net_5 nmos W=1e-6 L=6e-6
M9 net_8 bias_n_1b source_nmos source_nmos nmos W=1e-6 L=6e-6
M10 outfirststage ibias net_8 net_8 nmos W=1e-6 L=6e-6
M11 net_9 bias_p_4 source_pmos source_pmos pmos W=1e-6 L=1e-6
M12 net_1 bias_p_3 net_9 net_9 pmos W=2e-6 L=1e-6
M13 net_12 net_12 source_pmos source_pmos pmos W=1e-6 L=1e-6
M14 out net_13 net_12 net_12 pmos W=1e-6 L=1e-6
M15 out outfirststage source_nmos source_nmos nmos W=2e-6 L=1e-6
M16 bias_n_1b bias_n_1b source_nmos source_nmos nmos W=1e-6 L=6e-6
M17 ibias ibias bias_n_1b bias_n_1b nmos W=1e-6 L=6e-6
M18 net_13 net_13 bias_p_2m bias_p_2m pmos W=1e-6 L=1e-6
M19 bias_p_2m net_12 source_pmos source_pmos pmos W=1e-6 L=1e-6
M20 bias_p_3 bias_p_3 source_pmos source_pmos pmos W=1e-6 L=8e-6
M21 bias_p_4 bias_p_4 source_pmos source_pmos pmos W=1e-6 L=1e-6
M22 bias_p_4 bias_n_1b source_nmos source_nmos nmos W=1e-6 L=6e-6
M23 bias_p_3 bias_n_1b source_nmos source_nmos nmos W=1e-6 L=6e-6
M24 net_13 bias_n_1b source_nmos source_nmos nmos W=1e-6 L=6e-6
Cap_load_1 out source_nmos
Cap_compensation_1 outfirststage out
.end 2stage_pmos_input
